US05275757
2) Preparation of 2-octyl-1,3-propanediol
250 ml of ether and 19.0 of lithium aluminum hydride were put in a 1-liter four-necked flask, and a solution obtained by dissolving 72.1 g of the thus prepared diethyl octylmalonate in 50 ml of ether was put therein dropwise at such a rate that ether is gently refluxed. After the dropwise addition, the mixture was refluxed with heating for 3 hours, and after allowing it to cool, a mixture of water-THF was added to decompose excess lithium aluminum hydride. The resultant solid was removed by filtration, and the filtrate was washed with saturated saline and dried over anhydrous sodium sulfate. The crude crystal obtained by distilling away the solvents was recrystallized from isooctane to give 32.4 g of colorless crystals. Yield 65%.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl octylmalonate | C(CCCCCCC)C(C(=O)OCC)C(=O)OCC | C15H28O4
reactant | water THF | O.C1CCOC1
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-octyl-1,3-propanediol | 32.4 g, Yield 65% | C(CCCCCCC)C(CO)CO | C11H24O2
